US06291469B1
Step A: Preparation of 3-tert-butoxycarbonyl-9-(4-cyanobenzoyl)-3,9-diaza-spiro[5.5]undecane
The synthesis of the starting material, 3-tert-butoxycarbonyl-3,9-diaza-spiro[5.5]undecane, was accomplished as described in U.S. Pat. No.5,451,578. This material (1.45 g) was dissolved in CH2Cl2 (25 mL) and cooled to 0° C. under an argon atmosphere. To this solution was added triethylamine (1.67 mL) and 4-dimethylaminopyridine (70 mg) followed by 4-cyanobenzoyl chloride (1.04 g). The mixture was stirred overnight as it warmed to rt. It was cooled to 0° C., and ice cold 1M HCl (30 mL) was carefully added. The resulting mixture was washed with EtOAc (3×30 mL). Then washing the EtOAc with saturated NaHCO3 and brine followed by drying with MgSO4 and evaporation of the solvent under reduced pressure afforded the title compound (1.62 9, 74%) as a yellow foam. Chromatography on silica gel with hexanes/ethyl acetate (2:1) as eluant gave pure compound.

reactant | 3-tert-butoxycarbonyl-3,9-diaza-spiro[5.5]undecane | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCNCC2 | C14H26N2O2
reactant | triethylamine | 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzoyl chloride | 1.04 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 70 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-tert-butoxycarbonyl-9-(4-cyanobenzoyl)-3,9-diaza-spiro[5.5]undecane | 74% | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCN(CC2)C(C2=CC=C(C=C2)C#N)=O | C22H29N3O3
